US05025025
To a solution of 0.34 g methyl 8-amino-2,2-di-methyl-4-[3-(3-pyridyl)propyl]octanoate in 5 mL dry methylene chloride is added a catalytic amount of 4-dimethylaminopyridine followed by 0.2 mL triethylamine and the mixture is cooled to 0° C.; 0.208 g (0.96 mmol) p-chlorobenzenesulfonyl chloride is added, the reaction is allowed to warm to room temperature and stirred for 48 hours. The mixture is diluted with methylene chloride and washed with saturated sodium bicarbonate, water and brine. The organic phase is dried, filtered and evaporated to yield an amber oil which is purified by flash chromatography using 1:1 ethyl acetate,hexane to yield methyl 8-(p-chlorophenylsulfonamido)-2,2-dimethyl-4-[3-(3-pyridyl)-propyl]-octanoate; IR (CH2Cl2): 3381, 1729, 1164 cm-1 ; NMR (CDCl3): delta 3.57 (s,3H), 2.9 (q,2H), 2.53 (t,2H), 1.12 (s,6H).

reactant | methyl 8-amino-2,2-di-methyl-4-[3-(3-pyridyl)propyl]octanoate | 0.34 g | NCCCCC(CC(C(=O)OC)(C)C)CCCC=1C=NC=CC1 | C19H32N2O2
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 0.96 mmol, 0.208 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 8-(p-chlorophenylsulfonamido)-2,2-dimethyl-4-[3-(3-pyridyl)-propyl]-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CC(C(=O)OC)(C)C)CCCC=1C=NC=CC1 | C25H35ClN2O4S
